Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Aspirin / simvastatin
 
Attending: ___.
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Much of the history is obtained from the ED documentation, as 
Mr. ___ is very uncooperative as well as being confused. 
He is beligerent and cursing through much of the interview. 

Mr. ___ is a ___ year old male with pmh significant for 
HLD, past CVA, and colon cancer initially resected in ___ 
(refused adjuvant chemo), now with metastatic disease including 
several brain lesions with edemea. He presented to the ED today 
with confusion and a febrile illness. 

He states his landlady forced him to come though he did not want 
to come to the hospital. He refuses to answer remainder of 
questioning with the exception of confirming that he is moving 
to ___ next week, and no longer wants to seek care for his 
cancer treatment. 

Arrival Vitals: 99.8 108 132/81 16 90% ra 
Transfer vitals: 98.5 99 164/64 21 96% 
Peak temp of 103.8
Lines: #20 in LAC
Fluids: 1L NS absorbed
Drips: 1L NS at 75cc/hr
In the ED patient confused and at times becoming loud and 
beligerent. Pt dislodged two IVs. Very unsteady gait. 
MEDS given: 1g acetaminophen PR, Vanco, Rocephin, Ampicillin, 
and Acyclovir. 2mg total Ativan for agitation.
- Head CT: "Multiple bilateral hyperdense metastatic lesions 
surrounding vasogenic edema are relatively stable compared to 
the prior examination. There is no evidence of acute hemorrhage 
or vascular territorial infarct. Localized mass effect is 
stable. There is no interval development of a midline shift or 
herniation".
- LP performed with bland CSF

Patient recently referred to hospice per Dr. ___. 
Also, according to a phone conversation documented by heme/onc, 
Mr. ___ planned to move to ___ and was not planning to 
follow-up with heme/onc at ___.   
 
Review of Systems:  
Refusing to answer.  

 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
Patinet was treated for a localized colon cancer in ___ at 
___ cancer was resected on ___. Per report, 
Mr. ___ declined adjuvant chemotherapy.  He does not 
recall whether he met with a medical oncologist at the time or 
what the stage of his disease.  He did well until ___ 
when he presented to the emergency department with back pain.  
CT identified multiple lung lesions, and he was then referred 
for a PET CT imaging.  This too identified multiple bilateral 
FDG-avid lung lesions and was concerning for a primary lung 
cancer.  However, CT-guided biopsy on ___ showed 
adenocarcinoma consistent with colon primary, staining positive 
for CK20 and CDX2, and negative for CK7 and TTF-1.

PAST MEDICAL HISTORY:  
1. Colon cancer resected ___ at ___, recurred 
___ with diffuse lung and brain metastases (as above)
2. Hypercholesterolemia.  
3. History of stroke in ___, maintained on warfarin.  
4. History of tobacco abuse.  
5. History of alcohol abuse.  
6. History of cataracts.  
 
Social History:
___
Family History:
The patient's mother may have been treated for breast cancer and 
died at ___ years of unknown cause. His father died suddenly at 
___ years. A sister died at ___ years. Another brother is living 
with advanced lung cancer. He has no children. He does not know 
his family ___ medical history.  His HCP is his friend 
___, who is a ___.

 
Physical Exam:
Admission Exam:
Vitals - T: 98.9 BP:170/96 HR:88 RR:16 02 sat:97% on RA  
General: Chronically ill appearing male, agitated, cursing, but 
not in acute distress
HEENT: Poor dentition, limited exam.   
Neck: Supple.  
CV: Normal rate regular rhythm 
Lungs: Clear, limited exam 
Abdomen: Soft NT, ND
GU: No foley 
Ext: No edema
.
Discharge Exam:
AVSS
Alert and Oriented
 
Pertinent Results:
CBC
COMPLETE BLOOD COUNT WBC RBC Hgb Hct MCV MCH MCHC RDW Plt Ct 
___ 07:10    10.6 4.10* 12.0* 34.0* 83 29.2 35.3* 13.9 
230 
___ 07:00    11.6* 4.10* 11.8* 34.0* 83 28.8 34.6 13.8 
240 
___ 07:25    9.4 4.01* 12.0* 33.2* 83 30.0 36.2* 13.7 188 

___ 07:15    11.0 4.60 13.7* 38.1* 83 29.7 35.9* 13.8 203 

___ 11:00    13.2* 5.39 15.6 44.8 83 29.0 34.9 13.6 270 
.
Chemistries
RENAL & GLUCOSE Glucose UreaN Creat Na K Cl HCO3 AnGap 
___ 07:10    233*1 21* 0.7 129* 4.4 96 25 12 
___ 07:00    283*1 23* 0.6 128* 4.3 97 22 13 
___ 07:25    ___ 125* 4.0 93* 20* 16 
___ 07:15    ___ 125* 3.6 90* 20* 19 
___ 11:00    180*1 25* 1.0 129* 3.9 89* 21* 23* 
.
___ 11:00AM BLOOD ALT-30 AST-30 AlkPhos-69 TotBili-1.6*
___ 07:25AM BLOOD Calcium-8.2* Phos-2.2* Mg-2.0
___ 10:59AM BLOOD Lactate-2.2*
.
IMAGING:
CT Head W/O Contrast -- Preliminary Result+ Dictated (___) 
Multiple bilateral hyperdense metastatic lesions surrounding 
vasogenic edema are relatively stable compared to the prior 
examination. There is no evidence of acute hemorrhage or 
vascular territorial infarct. Localized mass effect is stable. 
There is no interval development of a midline shift or 
herniation.
.
CSF:
ANALYSIS WBC RBC Polys Lymphs Monos 
___ 16:30    41 0 82 9 9 
.
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
INPATIENT 
___ CSF;SPINAL FLUID GRAM STAIN-FINAL; FLUID 
CULTURE-FINAL EMERGENCY WARD 
___ URINE URINE CULTURE-FINAL EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
EMERGENCY WARD 

 
Brief Hospital Course:
___ HLD, past CVA, and colon cancer initially resected in ___ 
(refused adjuvant chemo), now with metastatic disease including 
several brain lesions with edemea. He presented to the ED today 
with confusion and a febrile illness, likely secondary to 
dehydration and heat stroke. 
.
# Toxic metabolic encephelopathy: Confused, though largely just 
agitated and beligerent. This was initially thought to be 
related to his febrile illness and metabolic derangements. The 
patient was fluid resuscitated, had his blood sugars controlled 
and had his steroids briefly increased and quickly tapered. The 
patient's mental status improved to his baseline. 
. 
#. Fever: Unclear etiology although recorded at 103.8F rectally 
in the ED. UA negative. Culture and blood cultures negative. 
Head CT showed metastatic disease. CXR showed stable known 
metastatic disease. LP was negative. The pt received meningitis 
coverage in the ED but antibiotics were later held. The patient 
had no further episodes of fever during his hospital course. 
Thus, his fever was attributed to heat stroke. 
. 
#. Metastatic Colon Cancer: Mets to the brain. CT stable. 
Multiple brain lesions with vasogenic edema. The patients 
dexamethasone was increased from 2mg daily to 4mg QID while in 
house, this was tapered back down quickly to his home dose of 
2mg daily prior to d/c as there was no apparent increase in his 
cerebral edema on CT. He was continued on his home dosing of 
Keppra.   
.
#. Hyponatremia: Likely hypovolemic given insensible losses with 
fever, and very hot apartment without AC. It was also in the 
setting of likely hyperglycemia with potential some component of 
osmotic diuresis at home. The patient was given IVF and his Na 
improved from 125 to 129 while in house. 
.
Transitional Care:
- Patient discharged to the home of his neice ___ 
___ and home hospice in ___.
- ___ close friend: Phone # ___ 

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Dexamethasone 2 mg PO DAILY 
2. LeVETiracetam 500 mg PO BID 
3. Lorazepam 0.5 mg PO HS:PRN insomnia 
4. Omeprazole 20 mg PO DAILY 
5. Warfarin 1 mg PO Frequency is Unknown 
6. TraZODone 25 mg PO HS:PRN insomnia 

 
Discharge Medications:
1. Insulin SC 
      Sliding Scale

Fingerstick QACHS
Insulin SC Sliding Scale using HUM Insulin
RX *blood sugar diagnostic [FreeStyle Lite Strips]   1 four 
times ___ #*160 Box Refills:*4
RX *blood-glucose meter [FreeStyle Freedom Lite]   One As 
directed ___ #*1 Kit Refills:*0
RX *insulin lispro [Humalog KwikPen] 100 unit/mL 1 SC QID per 
sliding scale up to 14 Units ___ #*1 Box Refills:*0
RX *lancets [FreeStyle Lancets] 28 gauge As directed four times 
a day ___ #*160 Box Refills:*4
RX *insulin syringe-needle U-100 [BD Insulin Syringe Ult-Fine 
II] 31 gauge x ___ As direcred four times a day ___ #*160 
Syringe Refills:*4
2. Dexamethasone 2 mg PO DAILY 
3. LeVETiracetam 500 mg PO BID 
4. Lorazepam 0.5 mg PO HS:PRN insomnia 
5. Omeprazole 20 mg PO DAILY 
6. TraZODone 25 mg PO HS:PRN insomnia 

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Primary Diagnosis
- Metastatic Colon Cancer to the Brain
- Hyponatremia
- Metabolic Encephalopathy
- Hyperglycemia secondary to steroids
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
You were admitted to the hospital with confusion. This was most 
likely due to dehydration and high sugar levels from your 
steroids. Please continue to take all of your medications, we 
have started you on insulin.
 
Followup Instructions:
___